regression test for "alter" with "stop" and "resume"

* (exec-spice "ngspice %s" t)

* check wheter we can "stop" a transient simulation
*   alter a resistance and a voltage
*   and successfully "resume" from there
*
* charge a capacitor for 1ms
*   (first order e^(-t/tau) response, with tau=1ms)
* then stop, alter resistance, and voltage,
*    for a new tau of just 100us
* and resume from there.
*
* finally, compare the capacitor voltage against a golden trace

v1 1 0 dc 5

r1 1 2 1k
c2 2 0 1u

.control

stop when time = 1ms
tran 2u 2ms uic
alter r1=100
alter v1=10
resume

* calculate the golden response
let tau1 = 1k * 1u
let tau2 = 100 * 1u
let tstop = 1ms
let vstop = 5 * (1 - exp(-tstop / tau1))
let trace1 = 5 * (1 - exp(-time / tau1))
let trace2 = vstop + (10 - vstop) * (1 - exp(-(time - tstop) / tau2))
let gold = (time le tstop) * trace1 + (time gt tstop) * trace2

* plot v(2) gold

let maxerr = vecmax(abs(v(2) - gold))

if maxerr > 2e-4
  echo "ERROR: test failed, excessive error, maxerr = $&maxerr"
  quit 1
else
  echo "Note: maxerr = $&maxerr"
  echo "INFO: success"
  quit 0
end

.endc
